US07592373B2
4.13.d. 3-(2-chloro-4-trifluoromethylphenyl)propynoic Acid (2-pyrrolidin-1-ylmethylbenzoxazol-5-yl)amide
Prepared analogously to Example 2.3.f. from 0.2 g (0.92 mmol) of 2-pyrrolidin-1-ylmethylbenzoxazol-5-ylamine and 0.2 g (0.8 mmol) of (2-chloro-4-trifluoromethylphenyl)propynoic acid. Yield: 290 mg (81% of theory); C22H17ClF3N3O2 (M=447.84); melting point: 218° C.-223° C.; calc.: molecular ion peak (M+H)+: 448/450 (Cl); found: molecular ion peak (M+H)+: 448/450 (Cl); Rf value: 0.33 (silica gel, dichloromethane/methanol (19:1)).

reactant | 2-pyrrolidin-1-ylmethylbenzoxazol-5-ylamine | 0.92 mmol, 0.2 g | N1(CCCC1)CC=1OC2=C(N1)C=C(C=C2)N | C12H15N3O
reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | 0.8 mmol, 0.2 g | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic Acid (2-pyrrolidin-1-ylmethylbenzoxazol-5-yl)amide | N1(CCCC1)CC=1OC2=C(N1)C=C(C=C2)NC(C#CC2=C(C=C(C=C2)C(F)(F)F)Cl)=O | C22H17ClF3N3O2
